US05216015
Step 4: Preparation of E-methyl 3,5-dihydroxy-7-tributylstannyl-6-heptenoate
A mixture of E-methyl-5-hydroxy-3-oxo-7-tributylstannyl-6-heptenoate (7.19 g) and 1M triethylborane in tetrahydrofuran (23.4 ml) in anhydrous tetrahydrofuran (40 ml) is stirred at 20°-25° C. for about 20 minutes. The mixture is cooled to -78° C., sodium borohydride (0.677 g) added, stirred for 10 minutes, methanol (15 ml) added over about 30 minutes maintaining temperature below -68° C. and stirred at -78° C. for about 2 hours. The mixture is allowed to warm to -60° C. and 30% hydrogen peroxide (35 ml) in water (86 ml) is added. The mixture is allowed to warm to room temperature while stirring for about 30 minutes, diluted with ether and the layers separated. The organic solution is washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash chromatography in 25% ethyl acetate in hexane to give the desired product.

reactant | E-methyl-5-hydroxy-3-oxo-7-tributylstannyl-6-heptenoate | 7.19 g | COC(CC(CC(\C=C\[Sn](CCCC)(CCCC)CCCC)O)=O)=O
reactant | triethylborane | 1M | C(C)B(CC)CC | C6H15B
reactant | sodium borohydride | 0.677 g | [BH4-].[Na+]
reactant | hydrogen peroxide | 35 ml | OO | H2O2
solvent | tetrahydrofuran | 23.4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 86 ml | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | methanol | 15 ml | CO | CH4O
product | E-methyl 3,5-dihydroxy-7-tributylstannyl-6-heptenoate | OC(CC(=O)OC)CC(\C=C\[Sn](CCCC)(CCCC)CCCC)O | InChI=1S/C8H13O4.3C4H9.Sn/c1-3-6(9)4-7(10)5-8(11)12-2;3*1-3-4-2;/h1,3,6-7,9-10H,4-5H2,2H3;3*1,3-4H2,2H3;
